US08748440B2
Preparation of 2-(2-Chloropropionylamino)Benzoic Acid Methyl Ester and Related Compounds
To methyl anthranilate (5 g, 33.1 mmol) stirring in DCM at 0° C. under N2 was added DIEA (5.1 g, 39.7 mmol) in one portion followed by the dropwise addition of 2-chloropropionyl chloride (4.2 g, 33.1 mmol). The reaction was allowed to stir at 0° C. for 30 min. then warmed to room temperature, stirring for an additional 3 h. The reaction was treated with saturated aqueous solution of NaHCO3 and the resulting biphasic mixture transferred to a separatory funnel. The layers separated and the aqueous layer was extracted twice more with DCM (25 mL). The combined organic layers were washed with brine, dried over MgSO4 and concentrated under vacuum to afford the desired product (7.75 g, 97% yield), which was used without further purification. 1H-NMR (CDCl3): δ 11.8 (br, 1H), 8.72 (dd, 1H), 8.08 (dd, 1H), 7.58 (m, 1H), 7.15 (m, 1H), 4.56 (q, 1H), 3.97 (s, 3H), 1.85 (d, 3H).

reactant | methyl anthranilate | 33.1 mmol, 5 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | DIEA | 39.7 mmol, 5.1 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloropropionyl chloride | 33.1 mmol, 4.2 g | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(2-Chloropropionylamino)Benzoic Acid Methyl Ester | 7.75 g, 97% yield | COC(C1=C(C=CC=C1)NC(C(C)Cl)=O)=O | C11H12ClNO3
